US05574178
Lithium aluminum hydride (100 mg) was suspended in tetrahydrofuran (5 ml) under a nitrogen atmosphere. A solution of the 1-acetoxy-2,6-di-tert-butyl-3-methyl-4-propyloxybenzen in tetrahydrofuran (5 ml) was added to the suspension and the mixture was refluxed for 3 h. A saturated aqueous solution of ammonium chloride was added to the reaction mixture under ice cooling and the precipitate was filtered off together with the anhydrous sodium sulfate. The filtrate was concentrated and purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 2,6-di-tert-butyl-3-methyl-4-propyloxyphenol (150 mg) as a colorless oil. Mass 278(M+)

reactant | Lithium aluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-acetoxy-2,6-di-tert-butyl-3-methyl-4-propyloxybenzen | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)OCCC)C)C(C)(C)C | C20H32O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,6-di-tert-butyl-3-methyl-4-propyloxyphenol | 150 mg | C(C)(C)(C)C1=C(C(=CC(=C1C)OCCC)C(C)(C)C)O | C18H30O2
